US06509352B1
7-Methoxy-2-oxo-8-pentyloxy-1,2-dihydroquinoline-3-carboxylic Acid (2-Pyridine-4-ylethyl)amide
7-Methoxy-2-oxo-8-pentyloxy-1,2-dihydroquinoline-3-carboxylic acid (30.0 mg) obtained in Example 2-1,2-pyridine-4-ylethylamine (36.0 mg), and 1-hydroxybenzotriazole hydrate (17.3 mg) were dissolved in dimethylformamide (2 ml), and 1-ethyl-3-(3-dimethyl-aminopropyl)carbodiimide hydrochloride (24.5 mg) was successively added to this solution while being cooled with ice. After the reaction solution was stirred at room temperature for 5 hours, ethyl acetate (3 ml) and a saturated aqueous solution of sodium hydrogencarbonate (3 ml) were added to this solution. The organic layer was separated and dried over anhydrous sodium sulfate, filtered to remove the desiccating agent, and concentrated under reduced pressure. The resultant residue was purified through column chromatography (eluent: a mixture of chloroform and methanol at a ratio of 25:1) to obtain the title compound (35 mg) as colorless crystals (Table 8).

reactant | 7-Methoxy-2-oxo-8-pentyloxy-1,2-dihydroquinoline-3-carboxylic acid | 30.0 mg | COC1=CC=C2C=C(C(NC2=C1OCCCCC)=O)C(=O)O | C16H19NO5
reactant | 1-hydroxybenzotriazole hydrate | 17.3 mg | O.ON1N=NC2=C1C=CC=C2
reactant | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogencarbonate | 3 ml | C(O)([O-])=O.[Na+]
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 7-Methoxy-2-oxo-8-pentyloxy-1,2-dihydroquinoline-3-carboxylic Acid (2-Pyridine-4-ylethyl)amide | 35 mg | N1=CC=C(C=C1)CCNC(=O)C=1C(NC2=C(C(=CC=C2C1)OC)OCCCCC)=O | C23H27N3O4
